US07834051B2
rac-2-chloro-4-[(4R,5R)-4-hydroxy-5-(methoxymethyl)-3,3-dimethyl-2-oxopyrrolidin-1-yl]benzonitrile
Using 2-chloro-4-[5-(methoxymethyl)-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl]benzonitrile (170 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.83 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as colorless crystals (yield: 142 mg, 83%).

reactant | 2-chloro-4-[5-(methoxymethyl)-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl]benzonitrile | 170 mg | ClC1=C(C#N)C=CC(=C1)N1C(C(C(C1COC)=O)(C)C)=O | C15H15ClN2O3
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.83 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2-chloro-4-[(4R,5R)-4-hydroxy-5-(methoxymethyl)-3,3-dimethyl-2-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C([C@H]([C@H]1COC)O)(C)C)=O | C15H17ClN2O3
